US07538104B2
20.4: 3-(3-([1,3]-Dioxolan-2-yl)propylamino)-1-aminobutane
In a 1.5 liter sulfonating flask, 10.7 g (0.282 mol) of lithium aluminium hydride are suspended in 620 ml of diethyl ether. Then 55.9 g (0.282 mol) of 3-(3-[1,3]dioxolan-2-yl-propylamino)butyronitrile in solution in 210 ml of diethyl ether are slowly added dropwise. The mixture is subsequently heated at 35° C. for three hours. After cooling to 0° C., 10.7 g of water, 10.7 g of 10% strength NaOH and then a further 32.1 g of water are carefully added dropwise. The reaction solution is filtered over Hyflo and concentrated under reduced pressure. This gives 49.86 g of 3-{3-([1,3]dioxolan-2-yl)propylamino}-1-aminobutane as a reddish liquid which is used without further purification in the next stage.

reactant | lithium aluminium hydride | 0.282 mol, 10.7 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 3-(3-[1,3]dioxolan-2-yl-propylamino)butyronitrile | 0.282 mol, 55.9 g | O1C(OCC1)CCCNC(CC#N)C | C10H18N2O2
reactant | water | 10.7 g | O | H2O
reactant | NaOH | [OH-].[Na+]
reactant | water | 32.1 g | O | H2O
solvent | diethyl ether | 620 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 210 ml | C(C)OCC | C4H10O
product | 3-(3-([1,3]-Dioxolan-2-yl)propylamino)-1-aminobutane | O1C(OCC1)CCCNC(CCN)C | C10H22N2O2
